Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Risperdal / Zyprexa / Propranolol / Citalopram
 
Attending: ___.
 
Chief Complaint:
"I need a bed in the hospital."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old man with documented history of 
neurodevelopmental delay (mild mental retardation per
neuropsychological testing, per ___, possible vascular 
cognitive
impairment per cognitive neurology, bipolar disorder, and
complicated medical history who presented to ___ ED yesterday
with complaint of dry mouth, who again presents to ___ ED 
today
complaining of dry mouth that he believes is a side effect of 
his
psychiatric medications, now requesting psychiatric
hospitalization for treatment. Psychiatry was consulted for
diagnostic clarification and treatment recommendation.

On interview today, patient is more irritable and agitated,
stating that coming to the hospital yesterday and then going 
home
made him very angry. Today he demands hospitalization in a
psychiatric unit, stating that he can no longer tolerate the
intense dry mouth and mouth pain. He interrupts the interview
after several minutes, refusing to answer anymore questions as 
he
says that he answered them yesterday. He did deny any suicidal
thoughts or plans. 

On interview in the ED yesterday, ___, the patient stated 
that he has
suffered from dry mouth for the past ___ months, and that he
believes it is due to his seroquel. He said that nothing makes 
it
better, and that he has been sucking on candy constantly to
increase salivation, which helps somewhat. He stated that he was
using lidocaine mouthwash in the past, but that it doesn't 
really
help and that he knows that the only thing that will help will 
be
to stop his medications. Continued to report good medication
compliance, despite this. Stated that he would like to be
admitted to Deac4 in order to have his medications changed to
reduce this side effect. He reported low mood due to constant
mouth pain. Denied any difficulty sleeping, appetite changes,
decreased interest, or decreased ability to concentrate. Stated 
that he enjoys spending time with his granddaughter. ___ any 
suicidal or homicidal
thoughts, intents, or plans. Denied any auditory or visual
hallucinations. Denied any impulsivity, racing thoughts, or
sleeplessness.

Per the ED note on ___, and via chart review, the patient 
has
presented multiple times in the past several months to the ED 
and
to his psychiatrist for complaints of mouth dryness and burning.
Per his PCP, ___, there is no good data about burning 
mouth
syndrome, and it could be from his xerostomia, for which he
suggested continuing with viscious lidocaine and sucking on 
lemon
slices. He suggested medication management with Dr. ___.
Per Dr. ___ patient's symptoms may be a result of
hyperesthesia, or less likely from somatic delusions. She states
that he has had somatic delusions associated with his depression
in the past, including previous complaints of burning mouth as 
well as calf pain. Stated that she last saw him on ___ 
prior to presentation, and
that the patient reported improved mood and tolerable mouth pain
at that time. States that she spoke to the patient this morning,
and that he still endorsed strong desire for an inpatient bed,
particulary on Deac4.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: depression with psychotic features, anxiety,
delusional disorder, neuropsych testing in ___ showing
borderline IQ in MR range, possibly vascular cognitive 
impairment per cognitive neurology; reports first started taking 
psychiatric medications ___ years ago after the death of his 
brother to metastatic lung cancer 
Hospitalizations: Multiple hospitalizations on Deac4, most
recently in ___ hospitalization at ___ in ___
Current treaters and treatment: Dr. ___ and ECT trials: Per ___: Celexa (hives), Prozac,
Effexor ("shock-like" pain in head), risperdal ("shakiness"),
zyprexa ("tremor" and akathesia), 
Self-injury: denies
Harm to others: denies, but per Dr. ___ patient has a
history of violence against male family members in the past
Access to weapons: denies

PAST MEDICAL HISTORY:
-mild MR
-___ lesions
-H. Pylori peptic ulcer disease
-asbestosis
-Thalassemia

ALLERGIES: NKDA
 
Social History:
___
Family History:
Patient states that he has a brother who died by heroin
overdose in ___, possible history of schizophrenia in another
brother. Per ___, patient is ___ of 12 siblings, 5 of whom have
diagnoses of bipolar disorder or depression.

 
Physical Exam:
*VS:  BP: 131/90  HR:65 temp:97.6 resp: 18 O2 sat:100% RA  

Neurological:  
 *station and gait: within normal limits
 *tone and strength: normal tone, moving all extremities equally

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention: attentive to interview but at times is angry and
unable to be redirected
 *Orientation: AAOx3
 *Memory:  refuses to be assess 
 *Fund of knowledge:  refuses to be assessed
 Abstraction: refuses to be assessed
 *Speech: normal rate/volume/prosody
 *Language: heavily accented, fluent ___
 
Mental Status:
 *Appearance: elderly ___ man, well-groomed, pacing,
angry-appearing
 Behavior: minimally cooperative with interview, walks away
during interview
 *Mood and Affect: refuses to answer, affect is labile
 *Thought process / *associations: perseverates on getting a bed
in the hospital
 *Thought Content: denies SI/HI, denies AVH, does not appear to
be responding to internal stimuli, denies sx of mania
 *Judgment and Insight: limited/limited
 
Pertinent Results:
___ 04:18PM   GLUCOSE-92 UREA N-13 CREAT-1.1 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-31 ANION GAP-14
___ 04:18PM   ALT(SGPT)-19 AST(SGOT)-23 ALK PHOS-49 TOT 
BILI-0.7
___ 04:18PM   CALCIUM-10.3 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 04:18PM   TSH-1.7
___ 04:18PM   WBC-7.3 RBC-5.94 HGB-13.5* HCT-41.7 MCV-70* 
MCH-22.7* MCHC-32.4 RDW-14.2
___ 04:18PM   NEUTS-65.1 ___ MONOS-4.8 EOS-0.8 
BASOS-0.2
___ 04:18PM   PLT COUNT-217
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. He was 
unit-restricted.

LEGAL: ___
PSYCHIATRIC:
#) Bipolar disorder, depressive episode with somatic features: 
After admission, patient continued to focus on his dry mouth and 
burning tongue symptoms, and endorsed low mood as a result of 
these symptoms. Mr. ___ also endorsed frequent thoughts about 
his deceased son and brother, as his son passed away ___ years 
ago next month. He and his wife have also experienced many other 
losses in recent years, including his mother, for whom his wife 
was the primary caretaker. These losses have affected his 
relationship with his wife, who also suffers from depression. 
However, he denied any connection between these issues and his 
oral symptoms. 

Treatment initially focused on increasing the patient’s 
antidepressant dosage (Duloxetine, from 60mg to 90mg) and 
initiating pilocarpine 5mg BID for symptomatic treatment of 
xerostomia. Patient reported minimal improvement with no adverse 
effects, and pilocarpine was increased to 5mg qid. Patient’s 
Seroquel was also uptitrated to 200mg qhs to increase 
antipsychotic effect; he was carefully monitored for EPS and no 
worsening of abnormal movements was noted. Patient also 
participated in individual, group, and milieu therapy. After 
several days of treatment, patient endorsed that both his dry 
and burning mouth symptoms had improved. He also reported 
improved mood, stating that his symptoms were tolerable enough 
for discharge home. He denied any suicidal thoughts or intent 
throughout admission.

MEDICAL:
#) Hypertension: Continued atenolol 100 mg daily and lisinopril 
10 mg daily.

#) BPH: Continued Flomax 0.4 mg daily.

#) PUD: Continued Prilosec 20 mg daily.

PSYCHOSOCIAL: 
#) GROUPS/MILIEU:  Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities, but often stated that he 
was not interested.

#) COLLATERAL: Collateral was obtained from patient’s outpatient 
psychiatrist, Dr. ___ arranged for inpatient admission for 
this patient. Team also met with PCP ___ visited 
patient on the unit. They provided detailed collateral of the 
patient’s history of bipolar disorder, including similar 
episodes of depression with somatization requiring 
hospitalization in the past, as well as current psychosocial 
stressors in the home with the patient’s wife and other family 
members. 

#) FAMILY INVOLVEMENT: Wife and daughter were involved in 
outpatient psychiatry treatment. Patient’s wife and team met on 
the unit for a family meeting, which focused on coping with 
relationship stressors at home, as well as discharge planning.

#INTERVENTIONS
- Medications: Duloxetine, Seroquel, pilocarpine
- Psychotherapeutic Interventions: Individual therapy, some 
participation in group/milieu therapy.
- Coordination of aftercare: Outpatient follow-up with PCP and 
psychiatrist.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

#RISK ASSESSMENT
Low imminent risk of harm/violence to self/others.

CHRONIC/STATIC RF
-White
-Male
-Older adult
-Neurodevelopmental delay per neuropsychology testing
-Possible vascular cognitive impairment per cognitive neurology
-Deceased family members

MODIFIABLE RF
-___- Patient’s antidepressant and antipsychotic 
medication dosages were increased
-Burning/dry mouth- Initiated cholinergic medication to improve 
symptoms

PROTECTIVE FACTORS
-Family support - pt has a very supportive family
-Help-seeking behavior
-Outpatient care – pt is followed closely by his outpatient 
psychiatrist and PCP
-___ compliance – pt takes all medications and follows 
physician instructions
-___ housing - pt has a secure place to live w/ his wife 
-___ - pt is a pleasant person who easily makes 
relationships and engages people in his life

#PROGNOSIS
Fair - Patient is willing to pursue treatment, and is 
future-oriented with good supports. He displays help-seeking 
behavior and follows all medication instructions. However, he 
will require close outpatient care with his providers to ensure 
that his mood is stable and burning/dry mouth symptoms remain at 
a tolerable level.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amantadine 100 mg PO QHS 
2. Atenolol 100 mg PO DAILY 
3. Carbamazepine (Extended-Release) 100 mg PO QHS 
4. Chlorthalidone 12.5 mg PO DAILY 
5. ClonazePAM 0.5 mg PO TID 
6. Duloxetine 60 mg PO DAILY 
7. Gabapentin 300 mg PO TID 
8. Lidocaine Viscous 2% 5 mL PO TID:PRN burning tongue 
9. Lisinopril 10 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. QUEtiapine Fumarate 100 mg PO QHS 
12. Tamsulosin 0.4 mg PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. Docusate Sodium 200 mg PO DAILY:PRN constipation 
15. Lactobacillus acidophilus 10 billion cell oral DAILY 
16. Senna 8.6 mg PO BID:PRN constipation 
 
Discharge Medications:
1. Amantadine 100 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 100 mg PO DAILY 
4. Carbamazepine (Extended-Release) 100 mg PO QHS 
5. Chlorthalidone 12.5 mg PO DAILY 
6. Docusate Sodium 200 mg PO DAILY:PRN constipation 
7. Duloxetine 90 mg PO QHS 
RX *duloxetine 30 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
RX *duloxetine 60 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
8. Gabapentin 300 mg PO TID 
9. Lidocaine Viscous 2% 5 mL PO TID:PRN burning tongue 
10. Lisinopril 10 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. QUEtiapine Fumarate 200 mg PO QHS 
RX *quetiapine 200 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
13. Senna 8.6 mg PO BID:PRN constipation 
14. Tamsulosin 0.4 mg PO DAILY 
15. Lactobacillus acidophilus 10 billion cell oral DAILY 
16. ClonazePAM 0.5 mg PO TID 
17. pilocarpine HCl 5 mg oral QID 
RX *pilocarpine HCl 5 mg 1 tablet(s) by mouth four times daily 
Disp #*120 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depression, recurrent, with somatic features

 
Discharge Condition:
*Appearance: ___ year-old ___ male, appears stated age,
wearing polo shirt and jeans, shaved head
  Behavior: cooperative, good eye contact, no PMR/PMA 
  *Mood and Affect: 'better' / euthymic, full range
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear, goal-directed
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI/HI/AVH, reports improvement in 
somatic symptoms (improved dry mouth, denies burning sx)
  *Judgment and Insight: fair/chronically limited
Ambulates without difficulty

 
Discharge Instructions:
You were hospitalized at ___ for oral symptoms (mouth 
dryness/burning) and depression. We adjusted your medications, 
and you are now ready for discharge and continued treatment with 
your outpatient providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___